US06232342B1
a) methyl-4-[3-(N,N-dimethylamino)-1-propyloxy]benzoate
To a solution of methyl 4-hydroxybenzoate (1.0 g, 6.58 mmol), 3-dimethylamino-1-propanol (1.01 g, 9.87 mmol), and triphenylphosphine (2.6 g, 9.87 mmol) at 0° C. in THF (20 mL) was added dropwise diisopropyl azodicarboxylate (1.99 g, 9.87 mmol). After stirring for 16 h at room temperature the solution was concentrated and the residue purified by column chromatography (silica gel, methanol/dichloromethane) to yield the title compound as an oily solid (1.25 g, 5.2 mmol). MS(ESI): 238.1 (M+H)+.

reactant | methyl 4-hydroxybenzoate | 6.58 mmol, 1.0 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 3-dimethylamino-1-propanol | 9.87 mmol, 1.01 g | CN(CCCO)C | C5H13NO
reactant | triphenylphosphine | 9.87 mmol, 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 9.87 mmol, 1.99 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl-4-[3-(N,N-dimethylamino)-1-propyloxy]benzoate | 5.2 mmol, 1.25 g | COC(C1=CC=C(C=C1)OCCCN(C)C)=O | C13H19NO3
